US08470866B2
(S)-2-Amino-3-cyclopentyl-propionic acid (Chemimpex, 1.0 g, 6.36 mmol), methanol (15 mL) and concentrated hydrochloric acid (2 mL) was placed in a reaction flask and heated at 65° C. for 16 h. After such time, the reaction mixture was concentrated in vacuo and then dissolved in water. The resulting solution was then treated with a saturated aqueous sodium bicarbonate solution until pH ˜7-9. It was then extracted with ethyl acetate and the organic layers combined, dried over magnesium sulfate, filtered to remove the drying agent and the filtrate concentrated in vacuo to afford (S)-2-amino-3-cyclopentyl-propionic acid methyl ester (796 mg, 73%) as a clear colorless oil: HR-ES(+) m/e calcd for C9H17NO2 [M+H]+ 172.1332, observed 172.1332; 1H NMR (300 MHz, DMSO-d6) δ ppm 3.60 (s, 3H), 3.25 (dd, J=6.04, 7.85 Hz, 1H), 1.34-1.96 (m, 9H), 0.92-1.14 (m, 2H).

reactant | (S)-2-Amino-3-cyclopentyl-propionic acid | 6.36 mmol, 1.0 g | N[C@H](C(=O)O)CC1CCCC1 | C8H15NO2
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | methanol | 15 mL | CO | CH4O
product | (S)-2-amino-3-cyclopentyl-propionic acid methyl ester | 796 mg, 73% | COC([C@H](CC1CCCC1)N)=O | C9H17NO2
